US06593355B2
e. 2-(4-cyanophenylaminomethyl)-1-methyl-5-[1-(tert.butyloxycarbonylaminomethyl)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole
Prepared analogously to Example 1g/h from 2-[4-(N-methylamino)-3-amino-phenyl]-2-methyl-3-(tert.butyloxycarbonylamino)-1-pyrrolidino-propan-1-one, 4-cyano-phenylglycine/carbonyldiimidazole and subsequent treatment with glacial acetic acid.

reactant | 2-[4-(N-methylamino)-3-amino-phenyl]-2-methyl-3-(tert.butyloxycarbonylamino)-1-pyrrolidino-propan-1-one | CNC1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CNC(=O)OC(C)(C)C)C)N | C20H32N4O3
reactant | 4-cyano-phenylglycine carbonyldiimidazole | C(#N)C1=CC=C(C=C1)NCC(=O)O.C(=O)(N1C=NC=C1)N1C=NC=C1
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-cyanophenylaminomethyl)-1-methyl-5-[1-(tert.butyloxycarbonylaminomethyl)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | C(#N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)C(C)(C(=O)N2CCCC2)CNC(=O)OC(C)(C)C | C29H36N6O3
